US04774248
Preparation of 2-methyl-5-phenyl-1,4,5,6-tetrahydropyrimidine hydrochloride
A mixture consisting of 20 g (0.0897 mol) of 2-phenylpropane-1,3-diamine dihydrochloride, 10.76 g (0.269 mol) of sodium hydroxide pellets and 8.48 g (0.0897 mol) of acetamidine hydrochloride is heated under reflux until the evolution of NH3 has ended. The reaction medium is cooled, the insoluble material is filtered off and discarded, the filtrate is acidified with ethanol containing HCl and evaporated to half the volume, and the insoluble material formed is filtered off. The filtrate is diluted with an equal volume of ether, the insoluble material formed is filtered off and the resulting filtrate is evaporated to dryness. Recrystallization of the evaporation residue from an acetone/ethanol mixture (1:1 v/v) gives 6 g (yield: 32%) of CRL 41 352. M.p. (inst.)=220° C.

reactant | 2-phenylpropane-1,3-diamine dihydrochloride | 0.0897 mol, 20 g | Cl.Cl.C1(=CC=CC=C1)C(CN)CN
reactant | sodium hydroxide | 0.269 mol, 10.76 g | [OH-].[Na+]
reactant | acetamidine hydrochloride | 0.0897 mol, 8.48 g | Cl.C(C)(=N)N
reactant | NH3 | N | H3N
product | 2-methyl-5-phenyl-1,4,5,6-tetrahydropyrimidine hydrochloride | yield: 32% | Cl.CC=1NCC(CN1)C1=CC=CC=C1 | InChI=1S/C11H14N2.ClH/c1-9-12-7-11(8-13-9)10-5-3-2-4-6-10;/h2-6,11H,7-8H2,1H3,(H,12,13);1H
